US05665732
Step D: 1-Acetyl-3-bromomethyl-6-fluoro-1H-indazole
1-Acetyl-6-fluoro-3-methyl-1H-indazole (5.77 g, 33.1 mmol) in CCl4 (100 mL) was treated with NBS (3.64 g, 20 mmol) and benzoyl peroxide (0.388 g, 1.6 mmol) and the mixture was heated at 70° C. for 6 h. The mixture was concentrated and the residue quickly filtered through a plug of flash silica eluting with 2%→7% EtOAc in hexane to give the crude title compound (2.97 g, 65%) contaminated with traces of dibromide and starting material. This was conveniently used directly in subsequent reactions without further purification.

reactant | 1-Acetyl-6-fluoro-3-methyl-1H-indazole | 33.1 mmol, 5.77 g | C(C)(=O)N1N=C(C2=CC=C(C=C12)F)C | C10H9FN2O
reactant | NBS | 20 mmol, 3.64 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | 1.6 mmol, 0.388 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-Acetyl-3-bromomethyl-6-fluoro-1H-indazole | 2.97 g, 65% | C(C)(=O)N1N=C(C2=CC=C(C=C12)F)CBr | C10H8BrFN2O
